US06900354B2
a) 3-[4-(3-Fluoro-benzyloxy)-phenyl]-acrylic acid 3-fluoro-benzyl ester
A mixture of 5.0 g (30.5 mmol) p-cumaric acid, 8.4 g (61 mmol) potassium carbonate and 11.5 g (61 mmol) 3-fluorobenzylbromide in 500 ml ethyl methyl ketone is hold over night at 80° C. The reaction mixture is cooled, diluted with water and extracted with ethyl acetate. Chromatography (silica gel, n-hexane/ethyl acetate 4:1) gives 6.48 g (56%) of a colorless solid. MS: m/e=380.2 (M+).

reactant | p-cumaric acid | 30.5 mmol, 5.0 g | C1=CC(=CC=C1/C=C/C(=O)O)O | C9H8O3
reactant | potassium carbonate | 61 mmol, 8.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluorobenzylbromide | 61 mmol, 11.5 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | ethyl methyl ketone | 500 ml | CC(=O)CC | C4H8O
solvent | water | O | H2O
product | 3-[4-(3-Fluoro-benzyloxy)-phenyl]-acrylic acid 3-fluoro-benzyl ester | 6.48 g, 56% | FC=1C=C(COC(C=CC2=CC=C(C=C2)OCC2=CC(=CC=C2)F)=O)C=CC1 | C23H18F2O3
